US07238716B2
To a mixture of 3-(5-methyl-2-phenyl-4-oxazolyl)propionic acid (20.0 g), N,N-dimethylformamide (0.5 mL) and tetrahydrofuran; (300 mL) was dropwise added oxalyl chloride (13.18 g) under ice-cooling, and the mixture was stirred at room temperature for 1.5 hrs. The reaction mixture was concentrated, and the obtained residue was dissolved in tetrahydrofuran (100 mL). This solution was dropwise added to a mixture of 25% aqueous ammonia (200 mL) and tetrahydrofuran (100 mL) at room temperature. The reaction mixture was stirred at room temperature for 1.5 hrs and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give crystals (15.4 g, 77%) of 3-(5-methyl-2-phenyl-4-oxazolyl)propanamide. Recrystallization from chloroform-ethanol gave colorless prism crystals. melting point: 149-150° C.

reactant | 3-(5-methyl-2-phenyl-4-oxazolyl)propionic acid | 20.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)O | C13H13NO3
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 13.18 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(5-methyl-2-phenyl-4-oxazolyl)propanamide | 15.4 g, 77% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)N | C13H14N2O2
